* c:\users\vinit\desktop\summation-of-counter\vinit_inverter\vinit_inverter.cir

.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
xsc2 net-_sc1-pad1_ a gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ a net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8_lvt 
v1  net-_sc1-pad3_ gnd 1.8
v2  a gnd pulse(0 1.8 1ns 1ns 1ns 1 2)
* s c m o d e
* u1  a plot_v1
* u2  y plot_v1
xsc3 net-_sc1-pad1_ y net-_sc1-pad1_ sky130_fd_pr__res_generic_pd l=1 w=1
xsc4 y gnd sky130_fd_pr__cap_mim_m3_1 l=1 w=1
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(y)
.endc
.end
